US07592363B2
2-{3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}BENZALDEHYDE
The preparation of this compound is was similar to that described for Example 3. 2-Benzyl-3-(3-bromo-phenyl)-7-trifluoromethyl-2H-indazole (60 mg, 0.139 mmol), cesium carbonate (272 mg, 0.835 mmol), CuI (80 mg, 0.417 mmol) and 2-hydroxy-benzaldehyde (51 mg, 0.417 mmol) were dissolved in 6 ml of dry pyridine. The reaction and work-up were carried out as described for Example 3.

reactant | 2-Benzyl-3-(3-bromo-phenyl)-7-trifluoromethyl-2H-indazole | 0.139 mmol, 60 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC(=CC=C1)Br)C(F)(F)F | C21H14BrF3N2
reactant | cesium carbonate | 0.835 mmol, 272 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-hydroxy-benzaldehyde | 0.417 mmol, 51 mg | OC1=C(C=O)C=CC=C1 | C7H6O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
catalyst | CuI | 0.417 mmol, 80 mg | [Cu]I
product | 2-{3-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}BENZALDEHYDE | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(OC2=C(C=O)C=CC=C2)C=CC1)C(F)(F)F | C28H19F3N2O2
